US06919332B2
A mixture of 4-methoxyphenol (12 grams, 52.4 mmol), 4-bromo-2-methylbenzoic acid methyl ester (12 grams, 52 mmol), potassium carbonate (14.5 grams, 105 mmol) and copper powder (3.3 grams, 52 mmol) was stirred at 200° C. for 12 hours. The mixture was cooled to 25° C., diluted with diethylether, and the organic phase was washed twice with water, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by silica gel chromatography (5% ether in hexanes) afforded 4.0 grams of 4-(4-Methoxy-phenoxy)-2-methyl-benzoic acid methyl ester. MS: 273.2 [M+H]+

reactant | 4-methoxyphenol | 52.4 mmol, 12 grams | COC1=CC=C(C=C1)O | C7H8O2
reactant | 4-bromo-2-methylbenzoic acid methyl ester | 52 mmol, 12 grams | COC(C1=C(C=C(C=C1)Br)C)=O | C9H9BrO2
reactant | potassium carbonate | 105 mmol, 14.5 grams | C([O-])([O-])=O.[K+].[K+]
solvent | diethylether | C(C)OCC | C4H10O
catalyst | copper | 52 mmol, 3.3 grams | [Cu] | Cu
product | 4-(4-Methoxy-phenoxy)-2-methyl-benzoic acid methyl ester | 4.0 grams | COC(C1=C(C=C(C=C1)OC1=CC=C(C=C1)OC)C)=O | C16H16O4
